US07422834B2
By reference to manufacturing example 1 according to an embodiment described in Japanese Patent Laid-Open Publication No. Hei 11-272014, a naphthol pigment (a pigment red 238) is prepared. More specifically, 50 parts by mass (0.21 parts by mol) of 3-Amino-4-Methoxybenzanilide is dispersed into 1000 parts of mass of water, into which ice is added to set a temperature to 0° C. to 5° C. The resultant solution is agitated for 20 minutes after the addition of 60 parts by mass (0.58 parts by mol) of 35% HCl water solution, and then agitated for 60 minutes after the addition of 50 parts by mass (0.22 parts by mol) of 30% nitrite soda water solution. Subsequently, 2 parts by mass (0.02 parts by mol) of sulfamic acid are added to the solution to remove nitrite, and 50 parts by mass (0.37 parts by mol) of acetic acid soda and 75 parts by mass (1.12 parts by mol) of 90% acetic acid are further added to the solution, to thereby obtain a diazonium salt solution. Separately from this preparation, 68 parts by mass (0.21 parts by mol) of N-(5-chloro-2-methoxyphenyl)-3-hydroxy-2-naphthalenecarboxylic amide is dissolved in 1000 parts by mass of water in conjunction with 25 parts by mass (0.63 parts by mol) of caustic soda at a temperature of 80° C. or lower, to which 3 parts by mass (corresponding to 2.49 weight percent relative to the pigment) of minerite 100 is further added to obtain a coupler solution. The coupler solution is added to the above-described diazonium salt solution at a temperature of 10° C. or lower in order to induce a coupling reaction, and then treated by heat at 90° C. Subsequently, the resultant solution is filtered and rinsed, and then dried at a temperature of 100° C. Further, the resultant product having been dried is pulverized. As a result, 117 parts by mass (0.20 parts by mol) of a naphthol pigment is obtained. The obtained naphthol pigment has a volume average particle size D50 of 70 nm. This pigment is hereinafter referred to as “naphthol pigment A.”

reactant | N-(5-chloro-2-methoxyphenyl)-3-hydroxy-2-naphthalenecarboxylic amide | ClC=1C=CC(=C(C1)NC(=O)C1=CC2=CC=CC=C2C=C1O)OC | C18H14ClNO3
reactant | water | O | H2O
solvent | caustic soda | [OH-].[Na+]
product | naphthol | C=1C=CC=2C(C1)=CC=CC2O | C10H8O
